US08981085B2
A solution of (R)-tert-butyl 1-(5-bromo-3-(cyclopentanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (65 mg, 0.13 mmol) in neat TFA (5 mL) was stirred at room temperature for 20 minutes. TFA was then removed in vacuo, and the residue was evaporated from CH2Cl2 (10 mL). The oily residue obtained was dissolved in CH2Cl2 (0.5 mL) and treated with 2M HCl in Et2O. After 30 minutes at room temperature, the solid formed was filtered, washed with additional Et2O and dried to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopentanecarboxamide hydrochloride (38 mg, 62% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.79 (s, 1H), 9.31 (s, 1H), 8.27 (br s, 1H), 8.23 (s, 1H), 7.59 (br s, 1H), 3.46-3.41 (m, 2H), 3.34-3.27 (m, 2H), 3.11-3.04 (m, 1H), 2.88-2.80 (m, 1H), 2.17-2.11 (m, 1H), 1.94-1.85 (m, 3H), 1.79-1.74 (m, 2H), 1.72-1.65 (m, 3H), 1.60-1.55 (m, 2H), 1.52-1.45 (m, 1H); LCMS (APCI+) m/z 406.0, 408.1 (M+H)+, Retention time=2.42 minutes (Method 2).

reactant | (R)-tert-butyl 1-(5-bromo-3-(cyclopentanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.13 mmol, 65 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CCCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C23H32BrN5O3
reactant | HCl | 2M | Cl | ClH
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclopentanecarboxamide hydrochloride | 38 mg, 62% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)C2CCCC2 | InChI=1S/C18H24BrN5O.ClH/c19-13-8-21-17-15(16(13)24-7-3-6-12(20)10-24)14(9-22-17)23-18(25)11-4-1-2-5-11;/h8-9,11-12H,1-7,10,20H2,(H,21,22)(H,23,25);1H/t12-;/m1./s1
